US05134143
Ethyl 8-[(phenylmethyl)amino]-1,4-dioxaspiro[4.5]decane-7-carboxylate
Ethyl 8-(phenylmethyl)amino]-1,4-dioxaspiro -[4.5]-dec-7-ene-7-carboxylate (395.4 g, 1.3 mole) and acetic acid (75.0 ml, 1.3 mole) were added to ethanol (4 1). Sodium cyanoborohydride (82.0 g, 1. mole) was added in portions over 3 hours. The mixture was stirred overnight, then poured into water. The pH was adjusted to 10, and the product was extracted with methylene chloride, which was then dried with sodium sulfate and evaporated to give a yellow oil having small clear lumps in it. This was dissolved in THF and poured through 3 inches of basic alumina, which was then rinsed well with THF. The filtrate was evaporated to give 397.2 g (99.9%) of the title product as a yellow-green oil.

reactant | 1,4-dioxaspiro -[4.5]-dec-7-ene-7-carboxylate | 1.3 mole, 395.4 g | O1CCOC12CC(=CCC2)C(=O)[O-]
reactant | acetic acid | 1.3 mole, 75.0 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | C(C)O | C2H6O
reactant | Sodium cyanoborohydride | 82.0 g | C(#N)[BH3-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 8-[(phenylmethyl)amino]-1,4-dioxaspiro[4.5]decane-7-carboxylate | 397.2 g, 99.9% | C1(=CC=CC=C1)CNC1C(CC2(OCCO2)CC1)C(=O)OCC | C18H25NO4
